US04595532
Diethyl N(β-hydroxypivaloyl)aminomalonate was prepared (method B) from β-hydroxy pivalic acid and diethyl aminomalonate in 88% yield. The compound was isolated as an oil. NMR 1.13-1.3 (12H, m), 3.5 (2H, br s), 4.16-4.4 (4H, q), 5.1-5.16 (1H, d), 7.6-7.7 (1H, d).

reactant | β-hydroxy pivalic acid | OCC(C(=O)O)(C)C | C5H10O3
reactant | diethyl aminomalonate | NC(C(=O)OCC)C(=O)OCC | C7H13NO4
product | Diethyl N(β-hydroxypivaloyl)aminomalonate | 88% yield | OCC(C(=O)NC(C(=O)OCC)C(=O)OCC)(C)C | C12H21NO6
